US08420690B2
To a solution of 2-{(2S)-2-amino-3-[2-(trifluoromethyl)phenyl]propyl}-1H-isoindole-1,3(2H)-dione (200 mg, 0.97 mmol)[prepared according to Preparation 5], 1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxylic acid (339 mg, 0.97 mmol) and N,N-diisopropylethylamine (0.85 ml, 4.87 mmol) in dichloromethane (4.873 ml) at 25° C. was added bromo-tris-pyrrolidino-phosphonium hexafluorophosphate (501 mg, 1.07 mmol) in one portion. The solution was stirred at 25° C. for 1 h and was then dry loaded onto silica and purified via column chromatography (silica, 30-70% EtOAc in hexanes) yielding N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxamide (522 mg, 0.93 mmol, 95% yield) as a white foam: LCMS (ES) m/e 536 (M+H)+.

reactant | 2-{(2S)-2-amino-3-[2-(trifluoromethyl)phenyl]propyl}-1H-isoindole-1,3(2H)-dione | 0.97 mmol, 200 mg | N[C@H](CN1C(C2=CC=CC=C2C1=O)=O)CC1=C(C=CC=C1)C(F)(F)F | C18H15F3N2O2
reactant | 1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxylic acid | 0.97 mmol, 339 mg | CN1C=C(C=C1C1=CC=NN1C)C(=O)O | C10H11N3O2
reactant | N,N-diisopropylethylamine | 4.87 mmol, 0.85 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | bromo-tris-pyrrolidino-phosphonium hexafluorophosphate | 1.07 mmol, 501 mg | F[P-](F)(F)(F)(F)F.Br[P+](N1CCCC1)(N1CCCC1)N1CCCC1
solvent | dichloromethane | 4.873 ml | ClCCl | CH2Cl2
product | N-((1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-{[2-(trifluoromethyl)phenyl]methyl}ethyl)-1-methyl-5-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrole-3-carboxamide | 0.93 mmol, 522 mg, 95% yield | O=C1N(C(C2=CC=CC=C12)=O)C[C@H](CC1=C(C=CC=C1)C(F)(F)F)NC(=O)C1=CN(C(=C1)C1=CC=NN1C)C | C28H24F3N5O3
